US04178449
3-(Ethoxymethyl)-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine
A mixture of 2.15 g. of dimethylamine hydrochloride, 1.5 ml. of 37% formalin, and 10.5 ml. of acetic anhydride is swirled and heated gently until the reaction mixture becomes homogeneous. To the mixture is added 2.63 g. of 7-(α,α,α-trifluoro-m-tolyl) pyrazolo[1,5-a]pyrimidine and the reaction mixture is heated for 2 hours on a steam bath. The reaction mixture is evaporated to dryness and acetone is added and briefly refluxed and evaporated to dryness again. Water is added and the mixture extracted with methylene chloride. The residue, on evaporation of the solvent, when recrystallized from ethanol gave the product, m.p. 110°-111° C.

reactant | dimethylamine hydrochloride | Cl.CNC
reactant | formalin | C=O | CH2O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-(α,α,α-trifluoro-m-tolyl) pyrazolo[1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
product | 3-(Ethoxymethyl)-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine | C(C)OCC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C16H14F3N3O
